US06462075B1
1,5-Di(2-chloro-6-fluorophenyl)-1E,4E-pentadien-3-one.
(72) To a solution of the 2-chloro-6-fluoro-benzaldehyde (1.59 g, 10.0 mmol) and acetone (290 mg, 5.00 mmol) in 15 ml of ethanol was added 5 ml of 40% potassium hydroxide at 10° C. After stirring for several hours at room temperature, the solution was filtered. The precipitate was recrystallized from ethanol to afford 879 mg (51.7%) of a light-yellow powder: mp 143.5-144.3° C. 1H NMR (250 MHz) δ 7.98-7.91 (d, 2H), 7.36-7.22 (m, 6H), 7.13-7.03 (m, 2H); 13C NMR (62.7 MHz) 189.6, 134.0, 132.1, 131.8, 131.2, 131.0, 126.3, 115.4, 115.0 ppm. Elemental Analysis. Calculated for C17H10Cl2F2O5: C, 60.20; H, 2.98. Found: C, 60.07; H, 2.99.

reactant | 2-chloro-6-fluoro-benzaldehyde | 10.0 mmol, 1.59 g | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | acetone | 5.00 mmol, 290 mg | CC(=O)C | C3H6O
reactant | potassium hydroxide | 5 ml | [OH-].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1,5-Di(2-chloro-6-fluorophenyl)-1E,4E-pentadien-3-one | 879 mg, 51.7% | ClC1=C(C(=CC=C1)F)\C=C\C(\C=C\C1=C(C=CC=C1F)Cl)=O | C17H10Cl2F2O
